US06828079B2
Synthesis of m-cresol/2,5-xylenol (=100/40) Novolak Resin Excepting Lower Molecular Weight Body
Into a 1 L four-necked flask equipped with a reflux tube, stirring apparatus and thermometer were charged 150.4 g of m-cresol, 67.9g of 2,5-xylenol, 10.0 g of oxalic acid dihydrate, 66.3 g of 90% acetic acid and 218 g of methyl isobutyl ketone and the mixture was heated up to 80° C. Into this was dropped 142.2 g of a 37% formaldehyde aqueous solution over 1 hour. Thereafter, the mixture was heated up to reflux temperature and kept at the same temperature for 12 hours. The resulted reaction solution was diluted with methyl isobutyl ketone, and washed with water and dehydrated, to obtain a 38.0% methyl isobutyl ketone solution of a novolak resin. 644 g of this resin solution was charged into a 5 L bottom-discharging type flask, diluted with 411 g of methyl isobutyl ketone. Thereto, 715 g of n-heptane was charged and the mixture was stirred at 60° C. and allowed to stand still, then, separated to obtain a novolak resin solution in the lower layer. This novolak resin solution was diluted with propylene glycol methyl ether acetate and then concentrated, to obtain a propylene glycol methyl ether acetate solution of a novolak resin. This resin is called resin A7.

reactant | m-cresol | 150.4 g | C1=C(C=CC=C1O)C | C7H8O
reactant | 2,5-xylenol | 67.9g | C=1(C(=CC=C(C1)C)C)O | C8H10O
reactant | oxalic acid dihydrate | 10.0 g | O.O.C(C(=O)O)(=O)O
reactant | formaldehyde | C=O | CH2O
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
solvent | methyl isobutyl ketone | 411 g | C(C(C)C)C(=O)C | C6H12O
solvent | propylene glycol methyl ether acetate | C(C)(=O)OC(COC)C | C6H12O3
solvent | methyl isobutyl ketone | 218 g | C(C(C)C)C(=O)C | C6H12O
solvent | n-heptane | 715 g | CCCCCCC | C7H16
solvent | acetic acid | 66.3 g | C(C)(=O)O | C2H4O2
product | m-cresol 2,5-xylenol | C1=C(C=CC=C1O)C.C=1(C(=CC=C(C1)C)C)O | InChI=1S/C8H10O.C7H8O/c1-6-3-4-7(2)8(9)5-6;1-6-3-2-4-7(8)5-6/h3-5,9H,1-2H3;2-5,8H,1H3
